US07524969B2
2-aminothiazole (1 g, 10 mmol) and butyraldehyde (1.44 g, 20 mmol) were mixed in dichloroethane (45 ml) and then treated with sodium triacetoxyborohydride (6 g, 28 mmol) and acetic acid (3.6 g 60 mmol). The reaction mixture was stirred at r.t. under a nitrogen atmosphere overnight. The reaction mixture then was quenched by 1N NaOH and extracted with EtOAc. The organic layer was washed with saturated NaHCO3, brine and dried over MgSO4. The solvent was evaporated to give 2-butylaminothiazole as a brown residue (1.02 g).

reactant | 2-aminothiazole | 10 mmol, 1 g | NC=1SC=CN1 | C3H4N2S
reactant | butyraldehyde | 20 mmol, 1.44 g | C(CCC)=O | C4H8O
reactant | sodium triacetoxyborohydride | 28 mmol, 6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 60 mmol, 3.6 g | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 45 ml | ClC(C)Cl | C2H4Cl2
product | 2-butylaminothiazole | C(CCC)NC=1SC=CN1 | C7H12N2S
